US07799806B2
Step 3: 3-Oxo-1-piperidin-4-yl-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid allyl ester dihydrochloride
A solution of 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid allyl ester (1.40 g, 3.37 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 316.1 [M+H]+.

reactant | 1-(1-tert-butoxycarbonyl-piperidin-4-yl)-3-oxo-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid allyl ester | 3.37 mmol, 1.40 g | C(C=C)OC(=O)C=1C=C2NC(CN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H29N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-Oxo-1-piperidin-4-yl-1,2,3,4-tetrahydro-quinoxaline-6-carboxylic acid allyl ester dihydrochloride | Cl.Cl.C(C=C)OC(=O)C=1C=C2NC(CN(C2=CC1)C1CCNCC1)=O | InChI=1S/C17H21N3O3.2ClH/c1-2-9-23-17(22)12-3-4-15-14(10-12)19-16(21)11-20(15)13-5-7-18-8-6-13;;/h2-4,10,13,18H,1,5-9,11H2,(H,19,21);2*1H
